US06458796B1
5-(Hydroxy-phenyl-methyl)-3-(1-methyl-4-phenyl-butyl)-3,6-dihydro-[1,2,3]triazolo-[4,5-d]pyrimidin-7-one
Analogously to the procedure of Example 5, the title compound is prepared from 1.0 g (3.8 mmol) of 5-amino-1-(1-methyl-4-phenyl-butyl)-1H-[1,2,3]triazole-4-carboxamide and 1.89 g (11.4 mmol) of methyl mandelate.

reactant | 5-amino-1-(1-methyl-4-phenyl-butyl)-1H-[1,2,3]triazole-4-carboxamide | 3.8 mmol, 1.0 g | NC1=C(N=NN1C(CCCC1=CC=CC=C1)C)C(=O)N | C14H19N5O
reactant | methyl mandelate | 11.4 mmol, 1.89 g | C(C(O)C1=CC=CC=C1)(=O)OC | C9H10O3
product | 5-(Hydroxy-phenyl-methyl)-3-(1-methyl-4-phenyl-butyl)-3,6-dihydro-[1,2,3]triazolo-[4,5-d]pyrimidin-7-one | OC(C=1NC(C2=C(N1)N(N=N2)C(CCCC2=CC=CC=C2)C)=O)C2=CC=CC=C2 | C22H23N5O2
